US04207413
α-L-Glucopyranose (31)
1-Deoxy-1-nitro-L-glucitol (5.0 g.) was dissolved in 2 N sodium hydroxide (15 ml.) and the solution was immediately added dropwise to a stirred, cooled (ice-bath) solution of sulfuric acid (7.5 ml.) in water (9.0 ml.). The solution was then diluted with water (175 ml.) and neutralized to Congo Red with warm barium hydroxide solution. The precipitated barium sulfate was removed by centrifugation and the remaining sulfate was precipitated with a slight excess of barium acetate. The solution was then filtered through a pad of Celite® and the filtrate de-ionized by passage through a column containing 50 ml. of Dowex® 50W-X8 (H+) resin. The effluent and washings were evaporated under reduced pressure to a syrup which was diluted with a few drops of ethanol, warmed to 50°, seeded (seed crystals obtained from previous experiments) and allowed to crystallize. The resulting crystals were filtered with the aid of cold ethanol to give, after recrystallization, α-L-glucopyranose (2.4 g.), m.p. 146°-147°, [α]D -100°→-53.3° (24 hr.; c 2.15, water), compared to m.p. 146°-147°, [α]D -53° (at equilibrium; c 2.6, water). The filtrate containing L-glucose (t.l.c., n-propanol/ethyl acetate/water v/v 3:1:1) was retained for use in subsequent preparations of L-glucose.

reactant | 1-Deoxy-1-nitro-L-glucitol | 5.0 g | [N+](=O)([O-])C[C@@H](O)[C@H](O)[C@@H](O)[C@@H](O)CO | C6H13NO7
reactant | sulfuric acid | 7.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | barium hydroxide | [OH-].[Ba+2].[OH-]
solvent | sodium hydroxide | 2 N, 15 ml | [OH-].[Na+]
solvent | water | 9.0 ml | O | H2O
solvent | water | 175 ml | O | H2O
product | α-L-Glucopyranose | O[C@H]1[C@@H](O)[C@H](O)[C@@H](O)[C@@H](O1)CO | C6H12O6
